US08039472B2
3-{4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-propionic acid
3-{4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-propionic acid methyl ester (0.12 g, 0.39 mmol) is dissolved in MeOH (3 ml) and 2M NaOH solution (3 ml) is added and the resulting solution is stirred at room temperature for 18 hours. The reaction mixture is diluted with saturated ammonium chloride solution (20 ml) and extracted with EtOAc (100 ml×2). The organic phased are combined, dried over MgSO4, the solvent removed in vacuo to yield the title compound as a colourless oil; [M+H]+=295

reactant | 3-{4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-propionic acid methyl ester | 0.39 mmol, 0.12 g | COC(CCC1=CC=C(C=C1)OCCOC1OCCCC1)=O | C17H24O5
reactant | NaOH | 2M, 3 ml | [OH-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
solvent | ammonium chloride | 20 ml | [Cl-].[NH4+]
product | 3-{4-[2-(Tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-propionic acid | O1C(CCCC1)OCCOC1=CC=C(C=C1)CCC(=O)O | C16H22O5
